US07053211B2
In U.S. Pat. No. 4,873,235, W. H. Parsons et al. describes the synthesis of 3-amino-1,3,4,5-tetrahydro-benzo[b]azepin-2-one by reacting 3-bromo-1,3,4,5-tetrahydro-benzo[b]azepin-2-one, which is synthesized by bromination of 1-tetralone, followed by reaction with sodium azide to form 3-azido-1,3,4,5-tetrahydro-benzo[b]azepin-2-one. Subsequent hydrogenation of the azido group e.g. by reaction with sodium cyanoborohydride or in the presence of hydrogen on a suitable catalyst leads to 3-amino-1,3,4,5-tetrahydro-benzo[b]azepin-2-one.

reactant | 3-amino-1,3,4,5-tetrahydro-benzo[b]azepin-2-one | NC1CCC2=C(NC1=O)C=CC=C2 | C10H12N2O
reactant | 3-bromo-1,3,4,5-tetrahydro-benzo[b]azepin-2-one | BrC1CCC2=C(NC1=O)C=CC=C2 | C10H10BrNO
reactant | 1-tetralone | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | 3-azido-1,3,4,5-tetrahydro-benzo[b]azepin-2-one | N(=[N+]=[N-])C1CCC2=C(NC1=O)C=CC=C2 | C10H10N4O
